US07371777B2
2-[3-(3-Chlorophenylcarbamoyloxymethyl)-4-ethoxybenzyl]-tetrahydro-2-furancarboxylic acid
To a solution of 0.012 g of methyl 2-(4-ethoxy-3-hydroxymethylbenzyl)tetrahydro-2-furancarboxylate in 0.2 ml of tetrahydrofuran were added 0.010 ml of pyridine and 0.0066 g of 3-chlorophenylisocyanic acid, and the mixture was stirred at room temperature for 15 hours. 1 ml of ethyl acetate and 0.5 ml of 1 N hydrochloric acid were added, and the organic layer was concentrated. The residue was dissolved in 0.5 ml of tetrahydrofuran, 0.5 ml of ethanol and 0.2 ml of 1 N sodium hydroxide, and the mixture was stirred for 2 hours. 1 ml of ethyl acetate and 0.5 ml of 1 N hydrochloric acid were added, and the organic layer was concentrated. The residue was purified by HPLC using a reverse-phase column and a water-acetonitrile-trifluoroacetic acid elution solvent system, to give the title compound.

reactant | methyl 2-(4-ethoxy-3-hydroxymethylbenzyl)tetrahydro-2-furancarboxylate | 0.012 g | C(C)OC1=C(C=C(CC2(OCCC2)C(=O)OC)C=C1)CO | C16H22O5
reactant | pyridine | 0.010 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-chlorophenylisocyanic acid | 0.0066 g | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
reactant | hydrochloric acid | 1 N, 0.5 ml | Cl | ClH
solvent | tetrahydrofuran | 0.2 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 2-[3-(3-Chlorophenylcarbamoyloxymethyl)-4-ethoxybenzyl]-tetrahydro-2-furancarboxylic acid | ClC=1C=C(C=CC1)NC(=O)OCC=1C=C(CC2(OCCC2)C(=O)O)C=CC1OCC | C22H24ClNO6
